US04255509
(1) Synthesis of 2,4-dimethoxybenzenesulfonic acid
To a solution prepared by adding 57 ml of chlorosulfonic acid to 250 ml of chloroform, was added dropwise 50 g of 1,3-dimethoxybenzene at a temperature below 5° C. with stirring. After stirring at 5° C. for 30 minutes, the crystals thus-precipitated were collected by filtration and washed with 100 ml of chloroform.

reactant | chlorosulfonic acid | 57 ml | ClS(=O)(=O)O | ClHO3S
reactant | 1,3-dimethoxybenzene | 50 g | COC1=CC(=CC=C1)OC | C8H10O2
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,4-dimethoxybenzenesulfonic acid | COC1=C(C=CC(=C1)OC)S(=O)(=O)O | C8H10O5S
